US08053039B2
0.68 g of 4-{[6-(methacryloyloxy)hexyl]oxy}benzoic acid (2.20 mM) were dissolved in 20 ml of THF and 2.22 g of triethylamine (22.00 mM). The solution was cooled to −30° C. and 0.25 ml of methansulfochloride (2.20 mM) were added. The mixture was stirred for 1 h at this temperature, then 1.42 g of 4-pentylphenyl 4-{(E)-[4-((E)-{4-[(4-hydroxybenzyl)-amino]1-naphthyl}-diazenyl)-1-naphthyl]diazenyl}-3-methylbenzoate (2.00 mM) were added at once, followed by 50 mg of DMAP. The reaction mixture was stirred for 1 h at −30° C. and was allowed to warm to room temperature while stirred overnight. The next day, 10 g of celite filter aid were added and the resulting suspension was stirred for 15 min., filtered, the cake was washed with THF and the filtrate was evaporated to dryness. The residue was dissolved in 10 ml of dichloromethane and to this solution was then added approx. 30 ml of methanol dropwise at 0° C. The precipitated crystals were filtered off, washed with cooled methanol and dried to give 1.60 g (1.60 mM, 80%) of 4-pentylphenyl 4-[(E)-(4-{(E)-[4-({4-[(4-{[6-(methacryloyloxy)hexyl]oxy}benzoyl)oxy]benzyl}amino)-1-naphthyl]-diazenyl}-1-naphthyl)diazenyl]-3-methylbenzoate as dark crystals; λmax=571 nm, ε=35000 (THF). For total purification, the dye might be flash chromatographed on silica gel.

reactant | 4-{[6-(methacryloyloxy)hexyl]oxy}benzoic acid | 2.20 mM, 0.68 g | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C17H22O5
reactant | 4-pentylphenyl 4-{(E)-[4-((E)-{4-[(4-hydroxybenzyl)-amino]1-naphthyl}-diazenyl)-1-naphthyl]diazenyl}-3-methylbenzoate | 2.00 mM, 1.42 g | OC1=CC=C(CNC2=CC=C(C3=CC=CC=C23)/N=N/C2=CC=C(C3=CC=CC=C23)/N=N/C2=C(C=C(C(=O)OC3=CC=C(C=C3)CCCCC)C=C2)C)C=C1 | C46H41N5O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 22.00 mM, 2.22 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-pentylphenyl 4-[(E)-(4-{(E)-[4-({4-[(4-{[6-(methacryloyloxy)hexyl]oxy}benzoyl)oxy]benzyl}amino)-1-naphthyl]-diazenyl}-1-naphthyl)diazenyl]-3-methylbenzoate | 1.60 mM, 1.60 g, 80% | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(CNC3=CC=C(C4=CC=CC=C34)/N=N/C3=CC=C(C4=CC=CC=C34)/N=N/C3=C(C=C(C(=O)OC4=CC=C(C=C4)CCCCC)C=C3)C)C=C2)C=C1 | C63H61N5O7
